US03932465
A solution of 1.50 g of 3-(4-methoxy-benzyl)-7-(N-phenylacetyl-amino)ceph-2-em-4ξ-carboxylic acid, containing a small quantity of 3-(2-methoxy-benzyl)-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid, in 50 ml of a 4:1 mixture of dioxane and methanol, is treated with a solution of diphenyldiazomethane in cyclohexane, added in portions, until a red colour persists, and the mixture is left to stand for 3 hours at room temperature. The solvent is removed under reduced pressure and the residue is chromatographed on a column with 135 g of silica gel. Non-polar impurities are eluted with methylene chloride, and the desired product is eluted with methylene chloride containing 2% of acetic acid ethyl ester. The residue of the combined extract is recrystallised from a mixture of methylene chloride, 1,1,1-trichlorethane and cyclohexane, whereupon a product melting at 128° - 129°C (uncorrected) is obtained. Further recrystallisation from the same solvent mixture results in the enrichment of 3-(4-methoxy-benzyl)-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid diphenylmethyl ester and the melting point rises to 145° - 145.5°C. (corrected; correction + 1.5°C). The pure 3-(4-methoxy-benzyl)-7β-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid diphenylmethyl ester obtained after four recrystallisations is dried in a high vacuum at 35°C; [α]D20 = +317° ± 1° (c = 1.269 in chloroform); thin layer chromatogram (silica gel G; development with iodine vapour): Rf = 0.58 (system toluene/acetone, 4:1), Rf = 0.19 (system toluene/acetone, 19:1), Rf = 0.56 (system toluene/diethyl ether, 1:1), Rf = 0.31 (system toluene/acetic acid ethyl ester, 4:1), Rf = 0.38 (system toluene/acetic acid ethyl ester, 3:1) and Rf = 0.86 (system toluene/acetic acid ethyl ester); ultraviolet absorption spectrum (in 95% ethanol): λ max = 285 mμ (ε = 1900), λ shoulder = 253 mμ (ε = 8600) and strong end absorption; infrared absorption spectrum: characteristic bands in methylene chloride at 2.92μ, 5.61μ, 5.73μ, 5.93μ, 6.20μ, 6.62μ, 6.67μ (shoulder), 6.88μ, 8.48μ and 9.69μ, and in mineral oil at 2.99μ, 5,63μ, 5.77μ, 6.05μ, 6.56μ, 6.61μ, 7.42μ, 8.00μ, 8.33μ, 8.58μ and 9.71μ.

reactant | 3-(4-methoxy-benzyl)-7-(N-phenylacetyl-amino)ceph-2-em-4ξ-carboxylic acid | 1.50 g | COC1=CC=C(CC2=CS[C@H]3N(C2C(=O)O)C(C3NC(CC3=CC=CC=C3)=O)=O)C=C1 | C23H22N2O5S
reactant | 3-(2-methoxy-benzyl)-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid | COC1=C(CC2=CS[C@H]3N(C2C(=O)O)C(C3NC(CC3=CC=CC=C3)=O)=O)C=CC=C1 | C23H22N2O5S
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | diphenyldiazomethane | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | methanol | CO | CH4O
product | 3-(4-methoxy-benzyl)-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1C(=CS[C@H]2N1C(C2NC(CC2=CC=CC=C2)=O)=O)CC2=CC=C(C=C2)OC | C36H32N2O5S
